Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]([N:7]([C:8](=[O:9])[CH2:10][N:11]2[C:12](=[O:13])[CH:14]([NH2:15])[C:16](=[O:17])[N:18]([c:19]3[cH:20][cH:21][cH:22][n:23][cH:24]3)[c:25]3[cH:26][cH:27][cH:28][cH:29][c:30]32)[CH:31]([CH3:32])[CH3:33])[cH:34][cH:35]1.[O:36]=[C:37]=[N:38][c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1>>[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]([N:7]([C:8](=[O:9])[CH2:10][N:11]2[C:12](=[O:13])[CH:14]([NH:15][C:37](=[O:36])[NH:38][c:39]3[cH:40][cH:41][cH:42][cH:43][cH:44]3)[C:16](=[O:17])[N:18]([c:19]3[cH:20][cH:21][cH:22][n:23][cH:24]3)[c:25]3[cH:26][cH:27][cH:28][cH:29][c:30]32)[CH:31]([CH3:32])[CH3:33])[cH:34][cH:35]1,[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]([N:7]([C:8](=[O:9])[CH2:10][N:11]2[C:12](=[O:13])[CH:14]([NH2:15])[C:16](=[O:17])[N:18]([c:19]3[cH:20][cH:21][cH:22][n:23][cH:24]3)[c:25]3[cH:26][cH:27][cH:28][cH:29][c:30]32)[CH:31]([CH3:32])[CH3:33])[cH:34][cH:35]1.[O:36]=[C:37]=[N:38][c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1>>[CH3:1][O:2][c:3]1[cH:4][cH:5][c:6]([N:7]([C:8](=[O:9])[CH2:10][N:11]2[C:12](=[O:13])[CH:14]([NH:15][C:37](=[O:36])[NH:38][c:39]3[cH:40][cH:41][cH:42][cH:43][cH:44]3)[C:16](=[O:17])[N:18]([c:19]3[cH:20][cH:21][cH:22][n:23][cH:24]3)[c:25]3[cH:26][cH:27][cH:28][cH:29][c:30]32)[CH:31]([CH3:32])[CH3:33])[cH:34][cH:35]1,nucleophilic_attack_to_iso(thio)cyanate,"[(15, 37), ([37, 36], 36), (36, 15.1), ([15.1, 15], 15), (36, [36, 37]), ([37, 38], 38), (38, 36.1), ([36.1, 36], 36)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[OH:8][c:9]1[cH:10][cH:11][c:12]([F:13])[c:14]([F:15])[c:16]1[F:17]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:8][c:9]1[cH:10][cH:11][c:12]([F:13])[c:14]([F:15])[c:16]1[F:17],[OH:8][c:9]1[cH:10][cH:11][c:12]([F:13])[c:14]([F:15])[c:16]1[F:17].[Br:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:8][c:9]1[cH:10][cH:11][c:12]([F:13])[c:14]([F:15])[c:16]1[F:17],SN2_alcohol(thiol),"[(301, 8.1), ([8.1, 8], 8), (8, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([c:2]1[c:3]([CH3:4])[cH:5][cH:6][cH:7][cH:8]1)=[O:9].[NH2:10][c:11]1[cH:12][cH:13][c:14]([C:15](=[O:16])[N:17]2[CH2:18][c:19]3[cH:20][cH:21][cH:22][cH:23][c:24]3[S:25][c:26]3[n:27][cH:28][cH:29][cH:30][c:31]32)[cH:32][cH:33]1>>[C:1]([c:2]1[c:3]([CH3:4])[cH:5][cH:6][cH:7][cH:8]1)(=[O:9])[NH:10][c:11]1[cH:12][cH:13][c:14]([C:15](=[O:16])[N:17]2[CH2:18][c:19]3[cH:20][cH:21][cH:22][cH:23][c:24]3[S:25][c:26]3[n:27][cH:28][cH:29][cH:30][c:31]32)[cH:32][cH:33]1,[NH2:10][c:11]1[cH:12][cH:13][c:14]([C:15](=[O:16])[N:17]2[CH2:18][c:19]3[cH:20][cH:21][cH:22][cH:23][c:24]3[S:25][c:26]3[n:27][cH:28][cH:29][cH:30][c:31]32)[cH:32][cH:33]1.[Cl:101][C:1]([c:2]1[c:3]([CH3:4])[cH:5][cH:6][cH:7][cH:8]1)=[O:9]>>[C:1]([c:2]1[c:3]([CH3:4])[cH:5][cH:6][cH:7][cH:8]1)(=[O:9])[NH:10][c:11]1[cH:12][cH:13][c:14]([C:15](=[O:16])[N:17]2[CH2:18][c:19]3[cH:20][cH:21][cH:22][cH:23][c:24]3[S:25][c:26]3[n:27][cH:28][cH:29][cH:30][c:31]32)[cH:32][cH:33]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(10, 1), ([1, 9], 9), (9, [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH:2]1[CH2:3][O:4]1.[O:5]=[C:6]([NH:7][CH2:8][CH2:9][OH:10])[NH:11][CH2:12][c:13]1[cH:14][cH:15][cH:16][cH:17][c:18]1[OH:19]>>[CH2:1]([CH:2]1[CH2:3][O:4]1)[O:19][c:18]1[c:13]([CH2:12][NH:11][C:6](=[O:5])[NH:7][CH2:8][CH2:9][OH:10])[cH:14][cH:15][cH:16][cH:17]1,[O:5]=[C:6]([NH:7][CH2:8][CH2:9][OH:10])[NH:11][CH2:12][c:13]1[cH:14][cH:15][cH:16][cH:17][c:18]1[OH:19].[Cl:101][CH2:1][CH:2]1[CH2:3][O:4]1.[H-:301].[Na+]>>[CH2:1]([CH:2]1[CH2:3][O:4]1)[O:19][c:18]1[c:13]([CH2:12][NH:11][C:6](=[O:5])[NH:7][CH2:8][CH2:9][OH:10])[cH:14][cH:15][cH:16][cH:17]1,SN2_alcohol(thiol),"[(301, 19.1), ([19.1, 19], 19), (19, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
